US05453464
Preparation of the di(1,1-dimethylethyl)α,α'-diacetyl-β,β'-dioxo-1,4-benzenedipropionate Crosslinker (Ia)
In a 51, 3-necked, RB flask equipped with a mechanical stirrer, nitrogen sparge, 2 addition funnels, and temperature probe was placed aqueous NaOH (67.7 g in 200 mL distilled water). The mixture was cooled to 10° C. and t-butyl acetoacetate (t-BAA) (259.1 g, 1.64 mol) in 500 ml toluene was added dropwise. Additional toluene (ca. 300 mL) was added to help disperse the solid acetoacetate anion and the reaction cooled to 5° C. Terephthaloyl chloride (159.1 g, 0.78 mol) dispersed in 500 ml toluene was added dropwise at such a rate as to keep the reaction temperature below 10° C. After addition of approximately half of the terephthaloyl chloride solution, co-addition of NaOH (64.4 g in 100 ml distilled water) was started--again at such a rate as to keep the temperature below 10° C. The resulting reaction was stirred for 6 additional hours, acidified with HCl to a pH of 5 and allowed to stand overnight. The resulting organic layer was separated from the aqueous phase, extracted with brine, dried over anhydrous MgSO4, concentrated in vacuo and the resulting crystals collected and washed with heptane to yield 176.7 g (50.7% yield) white crystals, mp 94°-96° C. The mother liquor from this crystallization was seeded to produce 84.8 g additional product collected. Over-all yield 261.5 g (75.1%).

reactant | t-butyl acetoacetate | 1.64 mol, 259.1 g | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
reactant | acetoacetate | C(CC(=O)C)(=O)[O-]
reactant | Terephthaloyl chloride | 0.78 mol, 159.1 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | NaOH | 100 ml, 64.4 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | ca. 300 mL | C1(=CC=CC=C1)C | C7H8
product | di(1,1-dimethylethyl)α,α'-diacetyl-β,β'-dioxo-1,4-benzenedipropionate | 176.7 g, 50.7% yield | CC(C)(C)OC(C(C(C1=CC=C(C=C1)C(C(C(=O)OC(C)(C)C)C(C)=O)=O)=O)C(C)=O)=O | C24H30O8
